US08431525B2
Under an argon atmosphere, 2-amino-3-benzyl-5-bromopyrazine (c-10) (1.66 g, 6.27 mmol) was dissolved in 1,2-dimethoxyethane (17 mL) and ethanol (13 mL) and to this were sequentially added 2 M aqueous solution of sodium carbonate (31.4 mL, 62.8 mmol), dichlorobis(triphenylphosphine) palladium(II) (221 mg, 315 μmol), and phenyl boronic acid (996 mg, 8.16 mmol) while stirring at room temperature and then stirred at 90° C. for 2.5 h. After cooling to room temperature, to this were added saturated brine and ethyl acetate to stop the reaction. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated under reduced pressure with a rotary evaporator. After purifying the residue by column chromatography (50 g, n-hexane/ethyl acetate=3/2→1/1), the obtained solid was recrystallized twice from ethyl acetate to give 2-amino-3-benzyl-5-phenylpyrazine (c-41) as a yellow solid (982 mg, 59.9%). Rf=0.30 (n-hexane/ethyl acetate=3/2). 1H NMR (400 MHz, DMSO-d6) δ 4.07 (s, 2H), 6.41 (s, 2H), 7.18 (t, J=7.5 Hz, 1H), 7.24-7.31 (m, 3H), 7.34 (d, J=7.3 Hz, 2H), 7.40 (t, J=7.5 Hz, 2H), 7.90 (d, J=7.8 Hz, 2H), 8.41 (s, 1H). IR (KBr, cm−1) 596, 664, 694, 716, 733, 754, 773, 908, 937, 1070, 1152, 1217, 1233, 1396, 1427, 1450, 1462, 1493, 1543, 1636, 3024, 3125, 3291, 3487. HRMS (EI+) m/z 261.1269 (M, C17H15N3 requires 261.1266).

reactant | 2-amino-3-benzyl-5-bromopyrazine | 6.27 mmol, 1.66 g | NC1=NC=C(N=C1CC1=CC=CC=C1)Br | C11H10BrN3
reactant | ethanol | 13 mL | C(C)O | C2H6O
reactant | sodium carbonate | 62.8 mmol, 31.4 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenyl boronic acid | 8.16 mmol, 996 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | 1,2-dimethoxyethane | 17 mL | COCCOC | C4H10O2
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-amino-3-benzyl-5-phenylpyrazine | 982 mg, 59.9% | NC1=NC=C(N=C1CC1=CC=CC=C1)C1=CC=CC=C1 | C17H15N3
